US04737517
21 g of 4-methyl-7-hydroxy-8-chlorocoumarin are mixed with 180 ml of ethanol, 20 ml of chloroform, 9.5 of of diethylamine and 11.2 g of 35% aqueous formaldehyde solution. The mixture is refluxed for 20 hours, being kept in constant agitation meanwhile; the ethanol and chloroform are evaporated in vacuum. The residue is solubilized in the methylenechloride-ethyl acetate-methanol mixture (7+3+1) and the solution is used for a chromatographic separation on silica, eluting with the same mixture of solvents. 4-methyl-6-diethylaminomethyl-7-hydroxy-8-chlorocoumarin is thus obtained. It is then treated with ethyl acetate and then, by adding gaseous hydrochloric acid, crystalline hydrochloride is formed. The precipitate is separated and crystallized from ethyl acetate. After filtering and drying the crystals, hydrochloride of 4-methyl-6-diethylaminomethyl-7-hydroxy-8-chlorocoumarin is obtained.

reactant | 4-methyl-7-hydroxy-8-chlorocoumarin | 21 g | CC1=CC(OC2=C(C(=CC=C12)O)Cl)=O | C10H7ClO3
reactant | ethanol | 180 ml | C(C)O | C2H6O
reactant | diethylamine | C(C)NCC | C4H11N
reactant | formaldehyde | 11.2 g | C=O | CH2O
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-methyl-6-diethylaminomethyl-7-hydroxy-8-chlorocoumarin | CC1=CC(OC2=C(C(=C(C=C12)CN(CC)CC)O)Cl)=O | C15H18ClNO3
